US03994858
b. 1-Glycidyl-3-(diethoxyphosphonoethyl)-5,5-dimethyl-hydantoin
A mixture of 146.1 g of 3-(diethoxyphosphonoethyl)-5,5-dimethyl-hydantoin (0.5 mol), 694 g of epichlorohydrin (7.5 mols) and 0.5 g of tetramethylammonium chloride is stirred for 105 minutes at 105° C. 44 g of 50% strength aqueous sodium hydroxide solution are added dropwise over the course of 3 hours at 60° C, analogously to Example 1 (c). The mixture is worked up analogously to Example 1 (c) and 157 g of a yellow, clear resin (90.2% of theory) with 2.74 epoxide equivalents/kg (95.5% of theory) and a phosphorus content of 6.13% are obtained.

reactant | 3-(diethoxyphosphonoethyl)-5,5-dimethyl-hydantoin | 0.5 mol, 146.1 g | C(C)OOP(=O)(OOCC)CCN1C(NC(C1=O)(C)C)=O | C11H21N2O7P
reactant | epichlorohydrin | 7.5 mols, 694 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetramethylammonium chloride | 0.5 g | [Cl-].C[N+](C)(C)C
product | 1-Glycidyl-3-(diethoxyphosphonoethyl)-5,5-dimethyl-hydantoin | C(C1CO1)N1C(=O)N(C(=O)C1(C)C)CCP(=O)(OOCC)OOCC | C14H25N2O8P
